datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(=O)C(CC(C)[N+:21]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1.CCC1CSC(C(C)C)=[N:10]1>>CCC(=O)C(CC(C)[N:21]1CCCCC1)(c1ccccc1)c1ccccc1.CCC1CSC(C(C)C)=[N+:10]1[H:20] 10=20;20,21=21",
"CCCC[NH:10]CCC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCC[NH+:10](CCC(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCC1SCC(C(=O)[O-])[NH+:21]1[H:20].COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[N:10](C)CC[C@]314>>CCCC1SCC(C(=O)[O-])[NH:21]1.COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[N+:10](C)([H:20])CC[C@]314 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1cn2cccnc2[n:10]1.c1ccc(-c2cc([O:21][H:20])on2)cc1>>COc1cc(S(C)=O)ccc1-c1cn2cccnc2[n+:10]1[H:20].c1ccc(-c2cc([O-:21])on2)cc1 10=20;20,21=21",
"C=C(C)C=C(C(=O)[O-:10])c1ccc([N+](=O)[O-])cc1.CCOc1ccc(C(=O)[N:21](C(=S)N(CC)CC)[H:20])cc1>>C=C(C)C=C(C(=O)[O:10][H:20])c1ccc([N+](=O)[O-])cc1.CCOc1ccc(C(=O)[N-:21]C(=S)N(CC)CC)cc1 10=20;20,21=21",
"CC(CC(c1ccccc1)c1ccccc1)[N+:21]1([H:20])CCCCC1.C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C>>CC(CC(c1ccccc1)c1ccccc1)[N:21]1CCCCC1.C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C 10=20;20,21=21",
"Cc1cc(Br)cc(Br)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(Br)cc(Br)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH:10]2)c1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"O=[N+]([O-])c1ccc(-c2ccc([O-:10])cc2)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccc(-c2ccc([O:10][H:20])cc2)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].O=C([O-])CC(c1ncc[nH]1)c1[nH]cc[n:10]1>>CCCCCCCC[N:21](CC(O)CC)CC(O)CC.O=C([O-])CC(c1ncc[nH]1)c1[nH]cc[n+:10]1[H:20] 10=20;20,21=21",
"O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20].c1ccc2c(c1)CNCCC[NH:10]Cc1ccccc1OCCCO2>>O=[N+]([O-])[CH-:21]SC1=CC=CC=C1.c1ccc2c(c1)CNCCC[NH+:10]([H:20])Cc1ccccc1OCCCO2 10=20;20,21=21",
"Cc1cc(N)nc(N)[n+:21]1[H:20].[NH3+]C(Cc1c[nH+]c[nH]1)C(=O)[O-:10]>>Cc1cc(N)nc(N)[n:21]1.[NH3+]C(Cc1c[nH+]c[nH]1)C(=O)[O:10][H:20] 10=20;20,21=21",
"O=S(=O)([O-])CC(O)C[N+:21]1([H:20])CCOCC1.O=S(CCc1ccccc1)[O-:10]>>O=S(=O)([O-])CC(O)C[N:21]1CCOCC1.O=S(CCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC(Cc1ccccc1)[N+:21](C)(CCC#N)[H:20].O/N=C/c1ccc([O-:10])cc1O>>CC(Cc1ccccc1)[N:21](C)CCC#N.O/N=C/c1ccc([O:10][H:20])cc1O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH2+]CC(C)C[NH:10]C>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH2+]CC(C)C[NH+:10](C)[H:20] 10=20;20,21=21",
"Cc1cc(C(C)C)cc(C)c1[O-:10].c1c(CN2CCNCC[NH+:21]([H:20])CC2)n[nH]c1CN1CCNCCNCC1>>Cc1cc(C(C)C)cc(C)c1[O:10][H:20].c1c(CN2CCNCC[NH:21]CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CCCC1SCC(C(=O)[O-])[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC1SCC(C(=O)[O-])[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N:10](C)CCCC(=O)Oc1cccc([N+](=O)[O-])c1.Cc1cc[n+:21]([H:20])c2ccccc12>>C[N+:10](C)(CCCC(=O)Oc1cccc([N+](=O)[O-])c1)[H:20].Cc1cc[n:21]c2ccccc12 10=20;20,21=21",
"CC(=O)[N-:10]S(=O)(=O)c1ccc(C)cc1.CC(C)P(=O)(C(C)C)[O:21][H:20]>>CC(=O)[N:10](S(=O)(=O)c1ccc(C)cc1)[H:20].CC(C)P(=O)(C(C)C)[O-:21] 10=20;20,21=21",
"C[Si](C)(C)c1cccc(C(=O)[O-:10])c1.[O-]C(=C1c2ccccc2-c2ccccc21)[O:21][H:20]>>C[Si](C)(C)c1cccc(C(=O)[O:10][H:20])c1.[O-]C(=C1c2ccccc2-c2ccccc21)[O-:21] 10=20;20,21=21",
"CCC(C(=O)[O-])[NH2+:21][H:20].NC(=O)CCC(C(=O)NCC(=O)O)[NH-:10]>>CCC(C(=O)[O-])[NH2:21].NC(=O)CCC(C(=O)NCC(=O)O)[NH:10][H:20] 10=20;20,21=21",
"C=CC[N:10]1CCOCC1.C[n+]1cccc2cccc([O:21][H:20])c21>>C=CC[N+:10]1([H:20])CCOCC1.C[n+]1cccc2cccc([O-:21])c21 10=20;20,21=21",
"CN(C)c1ccc([N+:21](C)(C)[H:20])cc1.O=C(c1cc([N+](=O)[O-])ccc1O)[O-:10]>>CN(C)c1ccc([N:21](C)C)cc1.O=C(c1cc([N+](=O)[O-])ccc1O)[O:10][H:20] 10=20;20,21=21",
"OC(C[NH2:10])c1ccccc1.c1ccc(CC[NH2+]CC[S:21][H:20])cc1>>OC(C[NH2+:10][H:20])c1ccccc1.c1ccc(CC[NH2+]CC[S-:21])cc1 10=20;20,21=21",
"CC(O)C[NH:10]C(C)(C)C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(O)C[NH+:10](C(C)(C)C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)N(C(=S)[S-:10])C(C)C.Oc1cccc(C[NH2+:21][H:20])c1>>CC(C)N(C(=S)[S:10][H:20])C(C)C.Oc1cccc(C[NH2:21])c1 10=20;20,21=21",
"C#CC(C)(C)[NH+:21](C(C)(C)CC)[H:20].CC(=O)Nc1ccc([S-:10])cc1>>C#CC(C)(C)[NH:21]C(C)(C)CC.CC(=O)Nc1ccc([S:10][H:20])cc1 10=20;20,21=21",
"CC1=C[N+:21](C)([H:20])CC1C.CCc1cc(C)c[n:10]c1>>CC1=C[N:21](C)CC1C.CCc1cc(C)c[n+:10]([H:20])c1 10=20;20,21=21",
"CCCCCCCCCCCCCC[N:10](CC(C)O)CC(O)CC.[S-]c1cccc[n+:21]1[H:20]>>CCCCCCCCCCCCCC[N+:10](CC(C)O)(CC(O)CC)[H:20].[S-]c1cccc[n:21]1 10=20;20,21=21",
"Cc1cccc([O-:10])c1C(=O)Oc1ccccc1.O=C(c1ccccc1)N1CC(=O)[N:21]([H:20])C1=S>>Cc1cccc([O:10][H:20])c1C(=O)Oc1ccccc1.O=C(c1ccccc1)N1CC(=O)[N-:21]C1=S 10=20;20,21=21",
